US08703951B2
Acetylchloride (4.00 g, 51.0 mmol) was added dropwise to a stirring solution of benzothiazole (6.75 g, 50.0 mmol) in dichloromethane (40 mL) under argon atmosphere. A catalytic amount of AlCl3 and trimethylsilylcyanide (5.1 g, 52.0 mmol) were than added into the reaction mixture. After being stirred for 17 h at room temperature, the reaction mixture was evaporated to dryness in vacuo and the residue was triturated with ether to give 3-acetyl-2,3-dihydrobenzo[d]thiazole-2-carbonitrile, 8.2 g (80%); mp 92-93° C. 1H NMR (DMSO-d6) δ 2.39 (3H, s, Me), 7.05 (1H, s, ArH), 7.16-7.26 (2H, m, 2×ArH), 7.49-7.51 (1H, m, ArH), 7.65 (1H, brs, C2-H). Anal. Calcd. for (C10H8N2OS): C, 58.80; H, 3.95; N, 13.72; S, 15.70. Found: C, 58.85; H, 3.95; N, 13.78; S, 15.76.

reactant | Acetylchloride | 51.0 mmol, 4.00 g | C(C)(=O)Cl | C2H3ClO
reactant | benzothiazole | 50.0 mmol, 6.75 g | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | trimethylsilylcyanide | 52.0 mmol, 5.1 g | C[Si](C)(C)C#N | C4H9NSi
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 3-acetyl-2,3-dihydrobenzo[d]thiazole-2-carbonitrile | C(C)(=O)N1C(SC2=C1C=CC=C2)C#N | C10H8N2OS
